US06090804
1-[5-(5-Hydroxy-1,3,4-oxadiazol-2-yl)-2-thenyl]hexahydro-1H-azepine
760 mg (3.0 mmol) of 2-(hexahydro-1H-azepin-1-yl)methylthiophene-5-carboxylic acid hydrazide was dissolved in 30 ml of tetrahydrofuran and 3 ml of N,N-dimethylformamide, 583 mg (3.6 mmol) of 1,1'-carbonyldiimidazole and 0.84 ml (6.0 mmol) of triethylamine were added, and the mixture was heated under reflux for 3 hours. The reaction solution was concentrated, chloroform was added to the resulting residue, followed by washing with water and drying over anhydrous magnesium sulfate. The solvent was evaporated and the resulting residue was purified by a silica gel column chromatography to give 793 mg of the title compound.

reactant | 2-(hexahydro-1H-azepin-1-yl)methylthiophene-5-carboxylic acid hydrazide | 3.0 mmol, 760 mg | N1(CCCCCC1)CC=1SC(=CC1)C(=O)NN | C12H19N3OS
reactant | 1,1'-carbonyldiimidazole | 3.6 mmol, 583 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | triethylamine | 6.0 mmol, 0.84 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 1-[5-(5-Hydroxy-1,3,4-oxadiazol-2-yl)-2-thenyl]hexahydro-1H-azepine | 793 mg | OC1=NN=C(O1)C1=CC=C(S1)CN1CCCCCC1 | C13H17N3O2S
